US04960779
Potassium borohydride (0.41 g) dissolved in distilled water (12 cc) is added at a temperature in the region of 20° C. to a suspension of 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone (3.0 g) in ethanol (50 cc), and the suspension is stirred for 16 hours at a temperature in the region of 20° C. The reaction mixture is then poured into a mixture of distilled water (300 cc) and dichloromethane (150 cc) which has been cooled to a temperature in the region of 0° C. The aqueous phase is separated after settling has occurred, and re-extracted with dichloromethane (2×150 cc). The organic phases are combined, washed with distilled water (3×25 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The product obtained is recrystallized twice in diisopropyl ether. 3-(2-Hydroxy-5-methylhexyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (2.0 g), m.p. 110° C., is thereby obtained.

reactant | Potassium borohydride | 0.41 g | [BH4-].[K+]
reactant | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 3.0 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C24H25N3O3
reactant | dichloromethane | 150 cc | ClCCl | CH2Cl2
solvent | water | 12 cc | O | H2O
solvent | ethanol | 50 cc | C(C)O | C2H6O
solvent | water | 300 cc | O | H2O
product | 3-(2-Hydroxy-5-methylhexyl)-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 2.0 g | OC(CC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)CCC(C)C | C24H27N3O3
